US08835432B2
A mixture of (S)-tert-butyl (1-(2-chloro-7-fluoroquinolin-3-yl)ethyl)carbamate (382 mg, 1.2 mmol), 2-(methylthio)phenylboronic acid (257 mg, 1.3 eq), Na2CO3 (623 mg, 5.0 eq), Pd(PPh3)4 (93 mg, 5%), MeCN (9 mL) and water (3 mL) was heated to 85° C. under N2 overnight. After cooling to rt, the reaction was partitioned between EtOAc (10 mL) and water (5 mL). The organic layer was separated, washed, dried and concentrated. The residue was purified by column chromatography on silica gel to give a white solid (S)-tert-butyl (1-(7-fluoro-2-(2-(methylthio)phenyl)quinolin-3-yl)ethyl)carbamate (460 mg, 94.8%). Mass Spectrum (ESI) m/e=413 (M+1).

reactant | (S)-tert-butyl (1-(2-chloro-7-fluoroquinolin-3-yl)ethyl)carbamate | 1.2 mmol, 382 mg | ClC1=NC2=CC(=CC=C2C=C1[C@H](C)NC(OC(C)(C)C)=O)F | C16H18ClFN2O2
reactant | 2-(methylthio)phenylboronic acid | 257 mg, 1.3 eq | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | Na2CO3 | 623 mg, 5.0 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | MeCN | 9 mL | CC#N | C2H3N
catalyst | Pd(PPh3)4 | 93 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 3 mL | O | H2O
product | (S)-tert-butyl (1-(7-fluoro-2-(2-(methylthio)phenyl)quinolin-3-yl)ethyl)carbamate | 460 mg, 94.8% | FC1=CC=C2C=C(C(=NC2=C1)C1=C(C=CC=C1)SC)[C@H](C)NC(OC(C)(C)C)=O | C23H25FN2O2S
